US08349880B2
N-(4-(4-chloro-1H-imidazol-1-yl)-3,5-difluorophenyl)-9-(4-fluorophenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine
A mixture of 3-(5-chloro-1-(4-fluorophenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3,5-difluorophenyl)-1H-1,2,4-triazol-5-amine (40 mg, 0.081 mmol), potassium carbonate (11.2 mg, 0.081 mmol), and potassium iodide (13.4 mg, 0.081 mmol) in DMF (2 mL) was heated at 55° C. for 5 hrs. The solvent was removed in vacuo. The crude product was purified using silica gel column chromatography (0-10% MeOH/CH2Cl2, linear gradient) to afford 28 mg (72% yield) of the titled compound as a solid. LC-MS (M+H)+ 459.2. 1H NMR (500 MHz, chloroform-d) δ ppm 7.49 (s, 1 H) 7.19 (d, J=10.38 Hz, 2 H) 7.14 (dd, J=8.55, 5.49 Hz, 2 H) 7.06 (t, J=8.55 Hz, 2 H) 7.00 (s, 1 H) 4.18-4.33 (m, 3 H) 2.15-2.28 (m, 1H) 1.78-2.15 (m, 5 H).

reactant | 3-(5-chloro-1-(4-fluorophenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3,5-difluorophenyl)-1H-1,2,4-triazol-5-amine | 0.081 mmol, 40 mg | ClCCCCC(C1=CC=C(C=C1)F)C1=NNC(=N1)NC1=CC(=C(C(=C1)F)N1C=NC(=C1)Cl)F | C22H19Cl2F3N6
reactant | potassium carbonate | 0.081 mmol, 11.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.081 mmol, 13.4 mg | [I-].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(4-(4-chloro-1H-imidazol-1-yl)-3,5-difluorophenyl)-9-(4-fluorophenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine | 28 mg, 72% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1F)NC1=NN2C(C(CCCC2)C2=CC=C(C=C2)F)=N1)F | C22H18ClF3N6
